US05114960
A solution of 4.7 g (12 mmol) of methyl 3-(4-chlorophenyl)-6-ethyl-3a,4,5,6,7,7a-hexahydro-7a-pyrrolidino-1,2-benzisoxazole-6-carboxylate in 200 ml of 2N hydrochloric acid was heated under reflux for 6 hours. The mixture was extracted with diethyl ether and the extracts were dried over magnesium sulfate and evaporated. After crystallization from methylcyclohexane, there were obtained 1.58 g of methyl 3-(4-chlorophenyl)-6-ethyl-4,5,6,7-tetrahydro-1,2-benzisoxazole-6-carboxylate of melting point 101°-102.5° C.

reactant | methyl 3-(4-chlorophenyl)-6-ethyl-3a,4,5,6,7,7a-hexahydro-7a-pyrrolidino-1,2-benzisoxazole-6-carboxylate | 12 mmol, 4.7 g | ClC1=CC=C(C=C1)C1=NOC2(C1CCC(C2)(C(=O)OC)CC)N2CCCC2 | C21H27ClN2O3
solvent | hydrochloric acid | 2N, 200 ml | Cl | ClH
product | methyl 3-(4-chlorophenyl)-6-ethyl-4,5,6,7-tetrahydro-1,2-benzisoxazole-6-carboxylate | 1.58 g | ClC1=CC=C(C=C1)C1=NOC2=C1CCC(C2)(C(=O)OC)CC | C17H18ClNO3
